### PR TITLE
[Merged by Bors] - feat: port Analysis.Subadditive

### PR DESCRIPTION
**Pull request by urkud**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Subadditive.lean [hunk 1]
```diff
@@ -0,0 +1,102 @@
...
+  | succ k IH =>
+    calc
+      u ((k + 1) * n + r) = u (n + (k * n + r)) := by congr 1; ring
+      _ ≤ u n + u (k * n + r) := h _ _
+      _ ≤ u n + (k * u n + u r) := add_le_add_left IH _
+      _ = (k + 1 : ℕ) * u n + u r := by simp; ring
+#align subadditive.apply_mul_add_le Subadditive.apply_mul_add_le
+
+theorem eventually_div_lt_of_div_lt {L : ℝ} {n : ℕ} (hn : n ≠ 0) (hL : u n / n < L) :
+    ∀ᶠ p in atTop, u p / p < L :=by
```
Comment (dupuisf) [inline Mathlib/Analysis/Subadditive.lean:66]:
```suggestion
    ∀ᶠ p in atTop, u p / p < L := by
```

**Review by dupuisf — COMMENTED** [review]
Thanks!

bors d+

**Comment by urkud** [comment]
bors merge
